US08293917B2
To a mixture of tert-butyl acetoacetate (1.1 mL, 6.8 mmol) and dimethylformamide-dimethylacetal (1.0 mL, 7.6 mmol) in a microwave tube is added a catalytic amount of TsOH. The yellow solution is heated at 130° C. in the microwave for 15 min. The resultant dark red solution is then cooled to room temperature, concentrated in vacuo and dissolved in acetonitrile (5.0 mL). Triethylamine (2.5 mL) is added followed by 3-chloro-4-fluorophenylhydrazine hydrochloride (1.3 g, 6.8 mmol). The dark reddish brown solution is stirred at room temperature for 16 hours. The reaction is diluted with EtOAc (75 mL) and washed with water (7×50 mL). The combined organic phases are dried over MgSO4, filtered and concentrated in vacuo to afford 1-(3-chloro-4-fluoro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid tert-butyl ester as a dark brown oil (2.1 g, 100%) which is used without further purification.

reactant | tert-butyl acetoacetate | 6.8 mmol, 1.1 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | dimethylformamide-dimethylacetal | 7.6 mmol, 1.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 3-chloro-4-fluorophenylhydrazine hydrochloride | 6.8 mmol, 1.3 g | Cl.ClC=1C=C(C=CC1F)NN
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 1-(3-chloro-4-fluoro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid tert-butyl ester | 2.1 g, 100% | C(C)(C)(C)OC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)F)Cl | C15H16ClFN2O2
